US04654343
N-Methyl-N[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]formamide
A mixture of 2.5 g of N-[3-(3-methyl-1,2,4-triazolo-[4,3-b]-pyridazin-6-yl)phenyl]formamide, 0.56 g of sodium hydride (50% in oil) and 250 ml of dimethylformamide were reacted as described in example 2, giving 1.72 g of the desired product as a white powder, mp 207°-210° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo-[4,3-b]-pyridazin-6-yl)phenyl]formamide | 2.5 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC=O | C13H11N5O
reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]formamide | 1.72 g | CN(C=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C14H13N5O
